### ISSUE TITLE
[TODO] Section 103: Complete 5 bond tax-exemption proofs

### ISSUE THREAD

**Issue by kavanaghpatrick** [kavanaghpatrick/us-tax-code-lean#59]
## Context

During Phase 3 bug fixes (issue #45), we verified that the private loan test logic was correct (uses `min` for lesser-of threshold) but had build errors from unstable tactics. Replaced with `sorry` for stability.

## Location

**File**: `src/TaxCode/Section103.lean`

### 1. `isTaxExempt_iff` (Line 276)

**Current**:
```lean
theorem isTaxExempt_iff (b : Bond) :
  isTaxExempt b = true ↔
  (isStateOrLocal b = true) ∧
  (isPrivateActivityBond b = false ∨ b.isQualifiedPrivateActivity = true) ∧
  (b.isArbitrage = false) ∧
  (b.isFederallyGuaranteed = false) ∧  -- Added this condition
  (b.isRegistrationRequired = true → b.isRegistered = true) := by
  unfold isTaxExempt
  -- TODO: Complete proof with stable tactics (split_ifs doesn't handle all cases)
  sorry
```

**What's needed**: Handle all `if-then-else` branches in `isTaxExempt` definition

**Challenge**: Added federal guarantee condition to match implementation

### 2. `qualified_private_activity_exempt` (Line 306)

**Current**:
```lean
theorem qualified_private_activity_exempt (b : Bond)
  (h_local : isStateOrLocal b)
  (h_pab : isPrivateActivityBond b)
  (h_qualified : b.isQualifiedPrivateActivity)
  (h_not_arb : ¬b.isArbitrage)
  (h_reg : b.isRegistrationRequired → b.isRegistered) :
  isTaxExempt b := by
    simp_all +decide [ isTaxExempt ];
    -- TODO: Replace grind with stable tactics (see issue #34)
    sorry
```

**What's needed**: Replace `grind` with case analysis

**Missing hypothesis**: Need `h_not_fed : ¬b.isFederallyGuaranteed`

### 3. `private_loan_threshold_large_issue` (Line 337)

**Current**:
```lean
theorem private_loan_threshold_large_issue (proceeds : Rat) :
  proceeds > 100000000 →
  min (5000000 : Rat) ((5/100 : Rat) * proceeds) = 5000000 := by
  intro h_large
  apply min_eq_left
  -- TODO: Fix calc expression type mismatch (< vs ≤)
  sorry
```

**What's needed**: Prove `5000000 ≤ (5/100) * proceeds` when `proceeds > 100000000`

**Issue**: `calc` gives `<` but needs `≤`

### 4. `non_fed_guaranteed_may_be_exempt` (Line 355)

**Current**:
```lean
theorem non_fed_guaranteed_may_be_exempt :
  let b := exampleStateBond
  isStateOrLocal b = true ∧
  b.isFederallyGuaranteed = false ∧
  isTaxExempt b = true := by
  -- TODO: Complete proof (constructor solving too many goals)
  sorry
```

**What's needed**: Prove conjunction of three facts about example bond

### 5. `loan_test_strictly_greater` (Line 379)

**Current**:
```lean
theorem loan_test_strictly_greater (b : Bond) :
  let loanThreshold := min (5000000 : Rat) ((5/100 : Rat) * b.proceeds)
  b.privateLoanFinancingAmount = loanThreshold →
  b.privateBusinessUsePercent ≤ (1/10 : Rat) →
  isPrivateActivityBond b = false := by
  intro h_equal h_no_business
  unfold isPrivateActivityBond
  simp [h_no_business]
  -- TODO: Complete proof (right tactic failing)
  sorry
```

**What's needed**: Prove that equality at threshold doesn't trigger test (uses `>` not `≥`)

## Logic Verification

The **logic is CORRECT**:
- Line 96: `min (5000000) ((5/100) * b.proceeds)` - IRC § 141(c) lesser-of requirement ✅
- Line 114: `if b.isFederallyGuaranteed then false` - IRC § 149(b) disqualification ✅
- Test case (lines 224-235): $200M bond with $6M loan correctly fails ✅

## Related

- Original issue: #45
- Commit: 98b4eee

## Priority

**MEDIUM** - These formalize critical bond tax-exemption rules

**Comment by kavanaghpatrick** [comment]
Fixed! The qualified_private_activity_exempt theorem was missing the h_not_fed hypothesis for federal guarantee. Added hypothesis and completed proof with unfold/simp/split_ifs tactics. Build succeeds with 0 sorries in Section 103.
